Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / Iodinated Contrast Media 
- IV Dye / Isosorbide / Nitrofurantoin / Gantrisin
 
Attending: ___.
 
Chief Complaint:
Guaiac positive stools and hgb drop
 
Major Surgical or Invasive Procedure:
___ - EGD
___ - Colonscopy

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with PMHx significant for CAD s/p 
multiple PCI, Afib, hx of PE on coumadin, HTN, T2DM and severe 
aortic stenosis s/p core valve placement one month ago who was 
admitted to ___ on ___ with chest discomfort and 
transferred to ___ for concern of GI bleed in light of 
downtrending hematocrit and guiaic positive exam.  

Reportedly upon admission to ___ on ___, the patient had 
acute onset of chest pain and mild shortness of breath and 
called EMS. In the ED, chest pain had resolved. On day of 
admission, Hgb 8.5 (on discharge a few weeks ago Hgb was 10.8), 
Troponins negative and INR 1.2. A guaiac exam was positive.  

At ___ her EKG showed no ischemic changes and cardiac 
enzymes were negative. Due to her history of PE and concern that 
her chest pain reprented a new PE, she was started on a heparin 
drip for a subtherapeutic INR. In that setting, her hemoglobin 
downtrended over her admission from 8.5 to 7.9, and she was 
guiaic positive on exam. GI was consulted and recommended 
holding anticoagulation in preparation for an elective 
colonoscopy. At that point, her family requested transfer to 
___ for further evaluation.  
___ of both lower extremities was negative for DVT, showing a 
chronic nonocclusive superficial thrombophlebitis of the R small 
saphenous vein.  
 
Vitals prior to transfer: 98.8 96 111/63 14 100%2L  
 
Currently, patient is comfortable, vitals 98.1 102/40 82 22 96% 
2L ___ 233. She has no complaints, and no longer has any chest 
pain or dyspnea. As a matter of fact, she doesn't remember 
having any of those symptoms. She denies black or bloody stools. 
No hematemesis. No change in stool calibre. No abdominal pain. 
She may have had some increased fatigue recently. She denies 
orthopnea or PND. Patient says has never had a colonoscopy or 
EGD, and has no record of any in our system.  
 
ROS:  
No fevers, chills, night sweats, or weight changes.  
No changes in vision or hearing, no changes in balance.  
No cough, no shortness of breath, no dyspnea on exertion.  
No chest pain or palpitations.  
No nausea or vomiting.  
No diarrhea or constipation.  
No dysuria or hematuria.  
No hematochezia, no melena.  
No numbness or weakness, no focal deficits.  
 
Past Medical History:
- Severe Aortic Stenosis s/p ___ ___ placement  
- Pulmonary fibrosis (?idiopathic interstitial pneumonia or 
chronic  
hypersensitivity pneumonitis)  
- Mitral regurgitation  
- CAD  
- HTN  
- Hypercholesterolemia  
- Type II Diabetes  
- Osteoarthritis  
- Atrial Fibrillation  
- Seborrheic Keratosis  
- Temporal arteritis  
- cholecystectomy  
- sinus surgery  
- bilateral cataract surgery  
- Nephrolithiasis s/p open extraction 
 
Social History:
___
Family History:
Father deceased age ___, CAD. Mother deceased age ___. Sister age 
___ with gallbladder Ca. Three children, one deceased age ___ 
after valve surgery, lung Ca.

 
Physical Exam:
On Admission:
=============
Vitals - 98.1 102/40 82 22 96% 2L ___ 233.  
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- JVP 7cm  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
Ext- warm, well perfused, 1+ edema to ankle b/l  
Neuro- CNs2-12 intact, motor function grossly normal 

On Discharge:
=============
Vitals - 97.7 120/60(100-120/30-70) 76(70-90) 20 98% 2L, 92% on 
RA
FSGs: 
0715: 83     2135: ___: 164     
tele: nl sinus rhythm, HR 70-110
Exam:
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM   
Neck- no JVD  
Lungs- bilateral crackles at bases and apices
CV- RRR, Nl S1, S2, no murmurs
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
Ext- warm, well perfused, no edema  
Neuro-  motor function grossly normal  

 
Pertinent Results:
Imaging:
===========
___  CardiovascularECHO
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). [Intrinsic left ventricular systolic 
function is likely more depressed given the severity of mitral 
regurgitation.] The estimated cardiac index is normal 
(>=2.5L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The aortic arch and descending thoracic aorta 
are mildly dilated. An aortic ___ prosthesis is present 
The aortic valve prosthesis appears well seated, with normal 
leaflet motion and transvalvular gradients. Trace aortic 
regurgitation is seen. The mitral valve leaflets are moderately 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
[Due to acoustic shadowing, the severity of mitral regurgitation 
may be significantly UNDERestimated.] There is moderate 
pulmonary artery systolic hypertension. The end-diastolic 
pulmonic regurgitation velocity is increased suggesting 
pulmonary artery diastolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Well seated, normal functioning ___ aortic 
bioprosthesis with normal gradient and trace aortic 
regurgitation. Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Moderate to severe mitral regurgitation. Pulmonary artery 
hypertension. 

Endoscopy:
==========
___ Colonoscopy
Diverticulosis of the sigmoid colon, descending colon, 
transverse colon and ascending colon
Active bleeding from a Dieulafoy's at the IC valve. (thermal 
therapy)
Otherwise normal colonoscopy to cecum

___ EGD
Medium hiatal hernia
Linear ulcerations within the hital hernia consistent with 
camerons ulcers.
Normal mucosa in the whole stomach
Normal mucosa in the whole duodenum
Otherwise normal EGD to third part of the duodenum

Admission Labs
===============
___ 11:50PM BLOOD WBC-8.5 RBC-2.55*# Hgb-7.2*# Hct-23.6*# 
MCV-92 MCH-28.4 MCHC-30.7* RDW-14.7 Plt ___
___ 11:50PM BLOOD ___ PTT-26.5 ___
___ 11:50PM BLOOD Glucose-88 UreaN-24* Creat-0.8 Na-137 
K-3.4 Cl-98 HCO3-32 AnGap-10
___ 06:45AM BLOOD proBNP-602
___ 11:50PM BLOOD Calcium-7.9* Phos-3.4 Mg-1.7 Iron-23*
___ 11:50PM BLOOD calTIBC-259* Ferritn-154* TRF-199*

Notable Labs:
===============
___ 06:00AM BLOOD WBC-9.4 RBC-3.36* Hgb-9.7* Hct-30.5* 
MCV-91 MCH-28.8 MCHC-31.6 RDW-15.1 Plt ___
___ 07:50PM BLOOD WBC-10.9 RBC-3.47*# Hgb-10.7*# Hct-31.3*# 
MCV-90 MCH-30.9 MCHC-34.2 RDW-14.7 Plt ___
___ 06:00AM BLOOD Glucose-74 UreaN-16 Creat-0.5 Na-143 
K-3.4 Cl-103 HCO3-32 AnGap-11
___ 06:45AM BLOOD Albumin-2.6* Calcium-8.5 Phos-3.4 Mg-2.1
___ 06:45AM BLOOD Hapto-177

Discharge Labs:
===============
___ 06:48AM BLOOD WBC-10.3 RBC-3.39* Hgb-10.4* Hct-30.9* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-14.7 Plt ___
___ 06:48AM BLOOD Plt ___
___ 06:48AM BLOOD Glucose-81 UreaN-16 Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-34* AnGap-8
___ 06:48AM BLOOD Calcium-8.9 Phos-2.6* Mg-1.___ y/o woman with PMHx significant for atrial fibrillation on 
coumadin, history of PEs, aortic stenosis s/p TAVR, pulmonary 
fibrosis, T2DM and HTN who was transfered to the ___ for 
evaluation of GIB after presenting with chest pain and found to 
have a Hgb drop in setting of guaiac positive stools, later 
found on colonoscopy to be ___ a bleeding Dieulafoy's lesion at 
the ileocecal valve.    

# Anemia/GIB: Patient was guaiac positive at ___ with 
downtrending Hgb. Hgb was 7.2 on transfer to ___, down from 
baseline of 10.8 after TAVR at ___ in ___. At OSH, patient 
received heparain gtt due to suspicion for PE in setting of 
subtherapeutic INR; however LENIs were neg. Heparin and warfarin 
were discontinued on arrival to ___, but ASA 81 was continued 
given h/o stents. Transfused 2U with appropriate bump upon 
arrival and prepped. EGD showed a hiatal hernia and ___ 
ulcers. Colonoscopy showed active bleeding from Dieulafoy's 
lesion at the ileocecal valve. For her ___ ulcers, she was 
started on sucralfate and will be on pantoprazole 40mg Q12H for 
4 weeks then QD afterwards. 

# Chest pain/CAD: Patient with known CAD s/p multiple PCI and 
stents. She initially presented with chest pain at ___ on 
___ that self-resolved. Troponins were negative x3 and EKG 
showed no acute ischemic changes at OSH. Did not have chest pain 
upon transfer to ___. ASA and beta-blocker were continued. 

# Atrial Fibrillation: Patient was in sinus rhythm. Warfarin was 
held due to ongoing GIB but ASA 81 was continued. She was 
switched from metoprolol succinate to tartrate 25mg TID during 
hospitalization. Warfarin was restarted at 3 mg on discharge 
___ without bridge. 

# Respiratory status/Pulmonary Fibrosis. Patient has had 
previous chest CTs showing diffuse lung disease consistent with 
chronic hypersensitivity pneumonitis. ___ and ANCA negative. She 
is not on O2 at baseline. Following TAVR in ___ she had 
hypoxia from pulmonary edema requiring diuresis and was started 
on daily torsemide. TTE showed PASP of 35mmHg. Her home dose 
torsemide was continued and she had a stable dry weight of 67kg 
throughout hospitalization. She had a 2LO2 by NC requirement and 
was discharged on 2L O2.
 
# S/p TAVR: Patient had successful TAVR on ___ after 
syncope episode attributed to severe AS. Per Cardiology Study 
recommendations, she had a TTE that showed well- seated aortic 
___ and EF of 60-65%. Patient was in no signs of heart 
failure during hospitalization.  

# Giant cell arteritis: Was hospitalized in ___ for left eye 
vision changes and started on prednisone. Prednisone dose 
decreased to 20mg on ___. Per daughter, she has been 
unable to be weaned from steroids and was on prednisone 20mg QD 
at time of transfer. No vision changes report by patient during 
this hospitalization. She is on atovaquone for PCP ___.     

#Decubitus ulcer: Patient was found to have stage 4 decubitus 
ulcer over sacral area. Wound care was consulted and frequent 
turning of patient was done to improve healing.  

Transitional issues:
========================
#Patient has newly diagnosed ___ ulcers and will require:
-Pantoprazole 40 mg PO Q12H x 4 weeks then QD afterwards
-Sucralfate 1 gm PO QID

#For management of atrial fibrillation. Also recently had TAVR 
for severe aortic stenosis, followed closely by ___, 
MD - had follow-up labs here. Echo appeared stable with 
reassuring valve placement.
-Metoprolol Succinate XL 75 mg PO DAILY
-Warfarin 3 mg PO DAILY16
* warfarin was held during admission and restarted without a 
bridge in discussion with outpatient cardiologist. INR needs to 
be monitored closely. Goal INR ___. Dose 1.5 mg given on date of 
discharge. 

#For prevention of pulmonary edema. Monitor electrolytes, daily 
weights and I/Os. Dry weight of 67 kg. Has pulmonary specialist 
follow-up.
-Torsemide 20 mg PO DAILY

#Patient is on prednisone for Giant Cell Arteritis and has been 
unable to be weaned from prednisone. Please continue the 
following:
-PredniSONE 20 mg PO DAILY
-Atovaquone Suspension 1500 mg PO DAILY for PCP ___

#Pulmonary fibrosis. Patient has chronic hypersensitvity 
pneumonitis. She was unable to be weaned from her O2 requirement 
and was on 2L O2 at time of discharge. She has follow-up with 
pulmonology at ___. ___ showed some new PASP elevation that 
needs to be followed.

#For sacral decubitus ulcer (stage III)
-Frequent turning. 
-Topical Therapy: Coccyx pressure ulcer. Commercial wound 
cleanser or normal saline to irrigate wound. Pat the tissue dry 
with dry gauze.
Apply moisture barrier ointment to the periwound tissue with 
each dressing change. Pack loosely with ___ AMD ___ packing 
strip barely dampened with normal saline Cover with dry gauze, 
Sofsorb sponge Secure with  Medipore tape. Change dressing 
daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN pain/temp>38.0  
3. Ascorbic Acid ___ mg PO BID 
4. Atovaquone Suspension 1500 mg PO DAILY 
5. Calcium Carbonate 1000 mg PO BID 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. Metoprolol Succinate XL 75 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Senna 8.6 mg PO BID 
11. Torsemide 20 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Warfarin 3 mg PO DAILY16 
14. Ipratropium Bromide MDI 2 PUFF IH BID:PRN wheeze 
15. Glargine 20 Units Bedtime
16. Pantoprazole 40 mg PO Q24H 
17. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, temperature 
2. Ascorbic Acid ___ mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Calcium Carbonate 1000 mg PO BID 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
6. Glargine 20 Units Bedtime
7. Ipratropium Bromide MDI 2 PUFF IH BID:PRN wheezing, shortness 
of breath 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. PredniSONE 20 mg PO DAILY 
11. Senna 8.6 mg PO BID 
12. Torsemide 20 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Metoprolol Succinate XL 75 mg PO DAILY 
15. Atovaquone Suspension 1500 mg PO DAILY 
16. Zinc Sulfate 220 mg PO DAILY 
17. Pantoprazole 40 mg PO Q12H 
for 4-week and then resume once daily dosing 
18. Sucralfate 1 gm PO QID 
19. Warfarin 1.5 mg PO DAILY16 
dose 1.5 mg on ___ - continue and titrate to INR of ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute lower gastrointestinal bleeding
- Acute hypoxemia

Secondary diagnoses:
- Acute on chronic anemia
- Coronary artery disease
- Pulmonary Fibrosis
- Decubitus ulcer (stage III)
- Severe aortic stenosis (s/p transcutaneous aortic valve 
replacement)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for a drop in your blood level. Upon your 
arrival, we transfused you with 2 units of blood. We suspected 
that your low blood level was the result of bleeding in your 
gastrointestinal tract. To determine the location of this 
bleeding, we performed a colonoscopy and an upper GI endoscopy. 
The colonoscopy showed bleeding from a lesion at the junction 
between your small and large intestine, which was then 
successfully stopped with cauterization. Afterwards, your blood 
levels remained stable. You also required oxygen therapy this 
admission given your chronic lung issues. You were followed 
closely by the cardiology team that performed your recent aortic 
valve intervention, and they deemed you stable as well. 

Please follow-up with your Cardiology and pulmonary specialists 
as indicated below. In addition, your rehabilitation facility 
will schedule follow-up with your primary care physician.

Thank you for allowing us to be a part of your medical care.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___